US08217032B2
5-{[4-(2-azepan-1-yl-ethoxy)-phenyl]-hydroxy-methyl}-6-(2,4,6-trifluoro-phenyl)-naphthalen-2-ol
Charge a flask with 1M borane in THF (4 mL) and (R)-(+) α,α-diphenylprolinol (26 mg, 0.1 mmol). Dissolve [4-(2-azepan-1-yl-ethoxy)-phenyl]-[6-hydroxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-methanone (348 mg, 0.7 mmol) in THF (3 mL) and add to the catalyst solution via syringe pump over 1.5 hours at 45° C. Upon completion of the reaction add ethanolamine (0.8 mL, 13.4 mmol) and heat at 45° C. for 2 hours. Cool the reaction to room temperature and add brine (5 mL) and stir for 1 hour. Filter the reaction and separate layers. Dry the organic layer with sodium sulfate, filter and concentrate in vacuo. Purify by silica gel chromatography using a 1.5-5% gradient of methanol in dichloromethane to yield 306 mg (88%) of the title compound: mass spectrum (ion spray) m/z=522 (M+H).

reactant | borane | 1M | B | BH3
reactant | (R)-(+) α,α-diphenylprolinol | 0.1 mmol, 26 mg | C1C[C@H](NC1)C(C2=CC=CC=C2)(C3=CC=CC=C3)O | C17H19NO
reactant | [4-(2-azepan-1-yl-ethoxy)-phenyl]-[6-hydroxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-methanone | 0.7 mmol, 348 mg | N1(CCCCCC1)CCOC1=CC=C(C=C1)C(=O)C1=C(C=CC2=CC(=CC=C12)O)C1=C(C=C(C=C1F)F)F | C31H28F3NO3
reactant | ethanolamine | 13.4 mmol, 0.8 mL | C(O)CN | C2H7NO
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | brine | 5 mL | [Cl-].[Na+].O
product | 5-{[4-(2-azepan-1-yl-ethoxy)-phenyl]-hydroxy-methyl}-6-(2,4,6-trifluoro-phenyl)-naphthalen-2-ol | 306 mg, 88% | N1(CCCCCC1)CCOC1=CC=C(C=C1)C(C1=C2C=CC(=CC2=CC=C1C1=C(C=C(C=C1F)F)F)O)O | C31H30F3NO3
